US06087380
f) 3-(4-Cyanophenyloxyacetylamino)-4-methylaminophenyl-(1-methoxycarbonylmethyl-cyclohex-1-yl)-ketone
620 mg (3.5 mMol) of 4-cyanophenyloxyacetic acid and 570 mg (3.5 mMol) of 1,1'-carbonyl-diimidazole were refluxed in 50 ml of tetrahydrofuran for 15 minutes. Then 1.0 g (3.28 mMol) of 3-amino-4-methylaminophenyl-(1-methoxycarbonylmethyl-cyclohex-1-yl)-ketone were added and the mixture was boiled for a further 4 hours. Then the solvent was evaporated off and the crude product thus obtained was purified by column chromatography (150 g silica gel; eluant: dichloromethane with 0 to 2% ethanol). Yield: 1.4 g (93% of theory), C26H29N3O5 (463.5) Rf value: 0.44 (silica gel; dichloromethane/ethanol=19:1)

reactant | 4-cyanophenyloxyacetic acid | 3.5 mMol, 620 mg | C(#N)C1=CC=C(C=C1)OCC(=O)O | C9H7NO3
reactant | 1,1'-carbonyl-diimidazole | 3.5 mMol, 570 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-amino-4-methylaminophenyl-(1-methoxycarbonylmethyl-cyclohex-1-yl)-ketone | 3.28 mMol, 1.0 g | NC=1C=C(C=CC1NC)C1C(CCCC1)(CC(=O)OC)C(=O)C1(C(CCCC1)C1=CC(=C(C=C1)NC)N)CC(=O)OC | C33H46N4O5
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(4-Cyanophenyloxyacetylamino)-4-methylaminophenyl-(1-methoxycarbonylmethyl-cyclohex-1-yl)-ketone | C(#N)C1=CC=C(C=C1)OCC(=O)NC=1C=C(C=CC1NC)C1C(CCCC1)(CC(=O)OC)C(=O)C1(C(CCCC1)C1=CC(=C(C=C1)NC)NC(COC1=CC=C(C=C1)C#N)=O)CC(=O)OC | C51H56N6O9
